US05128364
Step 1: 2,3-Dihydro-1-hydroxy-1-methyl-1H-pyrrolo[1,2-a]indole
To 2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one (613 mg, 3.58 mmol) suspended in toluene (12 mL), at 0° C. there was added methyl magnesium bromide 1.5M in toluene/THF (75:25) (3.0 mL, 4.5 mmol). The mixture was stirred at 0° for 5 minutes, then at room temperature for 20 minutes. After quenching with saturated aqueous NH4Cl solution, the mixture was partitioned between H2O and EtOAc. The crude product obtained from the organic fraction was chromatographed on a column of silica gel eluting with a 1:2 mixture of EtOAc and hexane to afford the title product as a yellow oil.

reactant | 2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one | 3.58 mmol, 613 mg | C1(CCN2C1=CC=1C=CC=CC21)=O | C11H9NO
reactant | methyl magnesium bromide | 1.5M | C[Mg]Br
reactant | toluene THF | 4.5 mmol, 3.0 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-1-hydroxy-1-methyl-1H-pyrrolo[1,2-a]indole | OC1(CCN2C1=CC=1C=CC=CC21)C | C12H13NO
